US05599832
Preparation of 5-Chloro-3-cyano-1-methyl-2-(trifluoromethyl)indole
A solution of 5-chloro-1-methyl-2-(trifluoromethyl)indole (1.79 g, 7.7 mmole) in acetonitrile is cooled to 0° C., treated with chlorosulfonylisocyanate (CSI) (1.0 mL 11.5 mmole) stirred until starting indole cannot be observed by thin layer chromatography, treated with 5 mL of dimethylformamide (DMF), stirred for 0.5 hour and diluted with diethyl ether and water. The phases are separated. The organic phase is washed with water, dried over Na2SO4 and concentrated in vacuo. The resultant residue is chromatographed using silica gel and 4:1 hexanes:ethyl acetate as eluent to give the title product as a white solid, 0.99 g (49.7% yield) mp 166°-167.5° C., identified by IR, 1HNMR, 13CNMR, 19FNMR and mass spectral analyses.

reactant | 5-chloro-1-methyl-2-(trifluoromethyl)indole | 7.7 mmole, 1.79 g | ClC=1C=C2C=C(N(C2=CC1)C)C(F)(F)F | C10H7ClF3N
reactant | chlorosulfonylisocyanate | 11.5 mmole, 1.0 mL | ClS(=O)(=O)N=C=O | CClNO3S
reactant | indole | N1C=CC2=CC=CC=C12 | C8H7N
reactant | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | acetonitrile | C(C)#N | C2H3N
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | water | O | H2O
product | 5-Chloro-3-cyano-1-methyl-2-(trifluoromethyl)indole | 49.7% yield | ClC=1C=C2C(=C(N(C2=CC1)C)C(F)(F)F)C#N | C11H6ClF3N2
